US05124328
2-(6-Aminopyrid-3yl)-4-(1,1-dimethylethyl)-5-oxo-morpholine
A solution of 2-(tetrazolo[1,5-a]pyrid-6-yl)-4-(1,1-dimethylethyl)-5-oxo-morpholine (550 mg), SnCl2.2H2O (968 mg) and 0.2 ml of 12N hydrochloric acid in 60 ml of methanol was heated at reflux for 14.5 hours under nitrogen. The reaction mixture was concentrated under reduced pressure and then poured into ice water containing 5N sodium hydroxide. The basic aqueous mixture was repeatedly extracted with methylene chloride. The combined organic fractions were washed with water and saturated sodium chloride solution and then dried over anhydrous magnesium sulfate. Concentration gave 603 mg of crude product which was chromatographed on silica gel (95:5:1 methylene chloride:ethanol:ammonium hydroxide) to give 442 mg of product. Mass spectrum (FAB) 250 (M+1). 13C NMR (CDCl3) 27.9 49.5 57.7 69.2 74.3 108.5 123.6 135.8 146.3 158.7 167.4 ppm.

reactant | 2-(tetrazolo[1,5-a]pyrid-6-yl)-4-(1,1-dimethylethyl)-5-oxo-morpholine | 550 mg | N=1N=NN2C1C=CC(=C2)C2CN(C(CO2)=O)C(C)(C)C | C13H17N5O2
reactant | SnCl2.2H2O | 968 mg | O.O.Cl[Sn]Cl
reactant | hydrochloric acid | 12N, 0.2 ml | Cl | ClH
solvent | methanol | 60 ml | CO | CH4O
product | 2-(6-Aminopyrid-3yl)-4-(1,1-dimethylethyl)-5-oxo-morpholine | 442 mg | NC1=CC=C(C=N1)C1CN(C(CO1)=O)C(C)(C)C | C13H19N3O2
